US07973063B2
d) Preparation of tert-Butyl {4′-[3-(4(S)-benzyl-2-oxooxazolidin-3-yl)-2(S)-ethoxy-1(R)-hydroxy-3-oxopropyl]biphenyl-3-yl}methylcarbamate
72.3 ml (72.3 mmol) of dibutylboron triflate and then 12.6 ml (72.3 mmol) of diisopropylethylamine are added dropwise to a solution, cooled to 0° C., of 15.2 g (57.8 mmol) of (S)-4-benzyl-3-(2-ethoxyacetyl)oxazolidin-2-one, prepared as described in the publication by Bernard Hulin et al., J. Med. Chem., 1996, 39, 3897-3907, from commercial (S)-4-benzyloxazolidin-2-one, in 150 ml of dichloromethane. The reaction medium is stirred at 0° C. for 30 min and then cooled to −78° C. A solution of 15 g (48.2 mmol) of tert-butyl (4′-formylbiphenyl-3-yl)methylcarbamate in 70 ml of dichloromethane is then added dropwise. After stirring from −78° C. to ambient temperature over 4 hours, the reaction medium is cooled to 0° C. and a mixture of 130 ml of a buffer solution, pH=7, and of 100 ml of methanol is added dropwise, followed by the dropwise addition of a mixture of 130 ml of aqueous hydrogen peroxide solution and of 100 ml of methanol. The reaction medium is stirred at 0° C. for 1 hour and then at ambient temperature for 3 hours. After addition of water, the reaction medium is extracted with dichloromethane. The organic phase is dried over magnesium sulfate, filtered and evaporated under vacuum. The residue obtained is purified by chromatography on a silica column eluted with a mixture of heptane and ethyl acetate (70/30) and then increase in the polarity up to a 50/50 heptane/ethyl acetate mixture. After evaporation of the solvents, 28 g of tert-butyl {4′-[3-(4(S)-benzyl-2-oxooxazolidin-3-yl)-2(S)-ethoxy-1(R)-hydroxy-3-oxopropyl]biphenyl-3-yl}methylcarbamate are collected. Yield=81%.

reactant | dibutylboron triflate | 72.3 mmol, 72.3 ml | [O-]S(=O)(=O)C(F)(F)F.C(CCC)[B+]CCCC
reactant | diisopropylethylamine | 72.3 mmol, 12.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (S)-4-benzyl-3-(2-ethoxyacetyl)oxazolidin-2-one | 57.8 mmol, 15.2 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(COCC)=O | C14H17NO4
reactant | (S)-4-benzyloxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1NC(OC1)=O | C10H11NO2
reactant | tert-butyl (4′-formylbiphenyl-3-yl)methylcarbamate | 48.2 mmol, 15 g | C(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)CNC(OC(C)(C)C)=O | C19H21NO3
reactant | hydrogen peroxide | 130 ml | OO | H2O2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | tert-Butyl {4′-[3-(4(S)-benzyl-2-oxooxazolidin-3-yl)-2(S)-ethoxy-1(R)-hydroxy-3-oxopropyl]biphenyl-3-yl}methylcarbamate | Yield=81% | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H]([C@H](O)C1=CC=C(C=C1)C1=CC(=CC=C1)CNC(OC(C)(C)C)=O)OCC)=O | C33H38N2O7
